US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[[N-(tetrahydropyran-2-yloxy)]carbamoyl]piperazine
In N,N-dimethylformamide (20 ml), 4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine-2-carboxylic acid (141 mg), 2-tetrahydropyranyloxyamine (180 mg), 1-hydroxybenzotriazole monohydrate (11 mg), 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (145 mg) and potassium carbonate (129 mg) were dissolved, followed by stirring overnight at room temperature. The reaction mixture was concentrated under reduced pressure. Dichloromethane was added to the residue, followed by washing with water. The organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (Φ0.7×25.0 cm, dichloromethane:methanol=100:3), whereby the title compound (308 mg) was obtained as a colorless foam.

reactant | 4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine-2-carboxylic acid | 141 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(=O)O | C23H23ClN4O5S2
reactant | 2-tetrahydropyranyloxyamine | 180 mg | O1C(CCCC1)ON | C5H11NO2
reactant | 1-hydroxybenzotriazole monohydrate | 11 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 145 mg | Cl.CN(C)CCCN=C=NCC
reactant | potassium carbonate | 129 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[[N-(tetrahydropyran-2-yloxy)]carbamoyl]piperazine | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(NOC1OCCCC1)=O | C28H32ClN5O6S2
